US04608390
a. 3-(2-naphthyl)-2-phenyl acrylic acid
A mixture of 2-naphthaldehyde (5 g, 32 mmole), phenylacetic acid (4.4 g, 32 mmole), triethylamine (5 mL) and acetic anhydride (10 mL) were refluxed for 5 hours. The solution was poured into 2N HCl (150 mL) and a precipitate formed immediately. This was recrystallized from 50% aqueous ethanol to yield 7.8 g (89% yield) of a white power.

reactant | 2-naphthaldehyde | 32 mmole, 5 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | phenylacetic acid | 32 mmole, 4.4 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 2N, 150 mL | Cl | ClH
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | 3-(2-naphthyl)-2-phenyl acrylic acid | 89% yield | C1=C(C=CC2=CC=CC=C12)C=C(C(=O)O)C1=CC=CC=C1 | C19H14O2
